Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-8.38945018398
[H:1][C:2]#[C:3][C:4][C:5]([O:6][H:7])[O:8][H:9]>>[C:2][C:3]#[C:4][C:5]([O:6][H:7])[O:8][H:9].[H:1],4.82885504785
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])=[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][H:4],1.06651915
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8][O:10][H:11].[H:9],3.83262976161
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][C:3](=[C:4][H:5])[C:10]([H:11])([H:12])[H:13],4.339419585340003
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.52221958523
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.39335863365
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:2](=[C:6]=[O:9])([H:8])[H:10].[O:1]([C:3]([H:4])[H:5])[H:7],1.26523554712
[H:1][C:2][C:3](=[O:4])[C:9]([C:8]=[C:5]([H:6])[H:7])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])([H:7])[C:8][C:9]1([H:10])[H:11],0.1187871704599999
[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.00659658385
[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-1.93315021986
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][O:10][H:11],3.9066480192
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.46158465262
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[O:1],6.116446038049999
[H:13].[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[O:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.62161687434
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3],0.6940030059899999
[H:1][C:2]=[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],1.18015619712
[H:3].[O:1]=[C:2]=[C:4][C:5]([H:6])[O:7][H:8]>>[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[O:7][H:8],-1.31898840569
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]#[C:8].[H:9]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]#[C:8][H:9],-5.77941895369
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9].[O:1]=[C:2],3.7528552716
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-4.81732967641
[H:1]/[C:2](=[C:3]\[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.81677226667
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]=[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C@@:11]1([H:12])[C:13][C:14]1([H:15])[H:16],2.89575909857
[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.75155101075
[H:1][C:2]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.96045241197
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-2.88917020551
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[H:14],2.00532399707
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.64266373436
